US04992454
1,3-Bis(1H-1,2,4-triazol-1-yl)-2-(5-chloropyrid-2-yl)butan-2-ol
To a solution of 2-[5-chloropyrid-2-yl]-2-[1-(1H-1,2,4-triazol-1-yl)ethyl]oxirane (70 mg; 0.28 m.Mole) in dimethylformamide (5 ml) was added 1,2,4-triazole (39 mg; 0.56 m.Mole) and anhydrous potassium carbonate (39 mg; 0.28 m.Mole). Heating, with stirring, was carried out for three hours at 80°. The solvent was then evaporated, water (20 ml.) was added, and the mixture was extracted with methylene chloride (3×10 ml). The combined organic extracts were washed with water (3×5 ml), dried over anhydrous magnesium sulphate, and evaporated to an oil (100 mg). Purification was carried out using a flash column of Merck "Kieselgel 60" 230-400 mesh silica, eluting with methylene chloride containing gradually increasing amounts of methanol (from 1 to 5%). The appropriate fractions, on evaporation, gave the pure title compound, 25 mg; m.p. 156°-157° (28.1% yield).

reactant | 2-[5-chloropyrid-2-yl]-2-[1-(1H-1,2,4-triazol-1-yl)ethyl]oxirane | 70 mg | ClC=1C=CC(=NC1)C1(OC1)C(C)N1N=CN=C1 | C11H11ClN4O
reactant | 1,2,4-triazole | 39 mg | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 39 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1,3-Bis(1H-1,2,4-triazol-1-yl)-2-(5-chloropyrid-2-yl)butan-2-ol | 28.1% yield | N1(N=CN=C1)CC(C(C)N1N=CN=C1)(O)C1=NC=C(C=C1)Cl | C13H14ClN7O
